* C:\Users\devaw\Documents\UMN\2025-2026\Junior_Design\Electrocardiogram-Design-Project\SPICE\AD8422_Divider&Ideal-Inverter.asc
Vright nVright N003 SINE(2m 0.5m 1)
Vleft N003 nVleft SINE(2m 0.5m 1)
X§U2 nVleft N001 N004 nVright nVSS 0 nStageOneOut nVDD AD8422
R_gain N001 N004 4.42k
R_filter nFilterOut nVref 510k
C1 nStageOneOut nFilterOut 10µF
X§U1 nFilterOut N002 nVDD nVSS nStageTwoOut ADA4522-1
R1 nStageTwoOut N002 100k
R2 N002 nVref 1k
R3 N001 nVCM 2.21k
R4 nVCM N004 2.21k
X§U3 0 nVCM nVDD nVSS N006 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R5 N006 nVCM 1Meg
Vbody N003 nRLD_out SINE(0 0.3 0.1)
R6 N006 nRLD_out 1k
V§USB_Power nVDD 0 3.3
X§U4 N005 nVref nVDD 0 nVref ADA4522-1
R7 N005 0 100k
R8 N005 nVDD 100k
E§Ideal-DCDC-Converter nVSS 0 nVDD 0 -3V
* Gain set to 10V/V
.tran 0 10 0 100m
* op amp gain stage
* Gain set to 100V/V
* instrumentation amplifier
* Voltage input from body
* High Pass Filter ~0.03Hz
* Right Leg Drive (RLD) Circuit
* Power supplied via \nSparkfun MiniUSB breakout
* buffered voltage divider for 1.65V reference
* Idealized version of LT1983-3 for simulation speed
.lib AD8422.sub
.lib ADA4522-1.lib
.lib UniversalOpAmp1.lib
.backanno
.end
